US09446034B2
2-(5-Bromo-2-chloro-pyridin-4-ylamino)-N-methoxy-benzamide
A mixture of 5-bromo-2-chloro-4-iodo-pyridine (5 g, 15.72 mmole, 1 eq), 2-amino-N-methoxy-benzamide (2.61 g, 15.72 mmole, 1 eq) and K3PO4 (8.34 g, 39.3 mmole, 2.5 eq), and 1,4-dioxane (30 mL) was degassed with N2 for 1 h. To this was added DPEPhos (0.67 g, 1.25 mmole, 0.08 eq) and Pd(OAc)2 (0.07 g, 0.31 mmole, 0.02 eq) and this mixture was degassed again with N2 for 30 min. The resulting mixture was refluxed for overnight. After completion of reaction, solvent was removed under reduced pressure and residue was diluted with water (100 mL) and extracted with 5% MeOH-DCM (3×100 mL). Combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure to give a crude compound. It was purified by column chromatography over silica gel (60-120 mesh) using 20% Ethyl acetate-hexane as the eluant to yield the title compound as off white solid (3.5 g, 62%). 1H-NMR (400 MHz, DMSO-d6): δ 3.56 (s, 3H), 6.88-6.98 (m, 1H), 7.08 (s, 1H), 7.17-7.25 (m, 1H), 7.26-7.35 (m, 1H), 7.82-7.90 (m, 1H), 8.23 (s, 1H), 12.86 (brs, 1H). LC-MS [M+H]+=356.30.

reactant | 5-bromo-2-chloro-4-iodo-pyridine | 15.72 mmole, 5 g, 1 eq | BrC=1C(=CC(=NC1)Cl)I | C5H2BrClIN
reactant | 2-amino-N-methoxy-benzamide | 15.72 mmole, 2.61 g, 1 eq | NC1=C(C(=O)NOC)C=CC=C1 | C8H10N2O2
reactant | K3PO4 | 39.3 mmole, 8.34 g, 2.5 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | DPEPhos | 1.25 mmole, 0.67 g, 0.08 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
catalyst | Pd(OAc)2 | 0.31 mmole, 0.07 g, 0.02 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-(5-Bromo-2-chloro-pyridin-4-ylamino)-N-methoxy-benzamide | BrC=1C(=CC(=NC1)Cl)NC1=C(C(=O)NOC)C=CC=C1 | C13H11BrClN3O2
